US06506769B2
To a solution of N-(t-butoxycarbonyl)aniline (2.0 g, 10.35 mmol) in dry THF (50 mL) at 78° C., a solution of t-BuLi (2.7M in pentane, 26 mL, 25.88 mmol) was added dropwise over 30 min. The resulting yellow solution was warmed to −20° C. and stirred at this temperature for 2.5 h. n-Bu3SnCl (4.2 mL, 15.52 mmol) in dry THF (10 mL) was added over 20 min, and the solution stirred at −20° C. for 2 h, then at room temperature for 12 h. The reaction mixture was poured into NaHCO3 solution and extracted with ether. The extract was washed with water, brine, and dried over MgSO4. The solvent was evaporated and the resulting oil purified by flash chromatography in hexanes/ether (20: 1) to give 2-tributylstannylphenylcarbamic acid t-butyl ester (2.42 g, 54%).

reactant | N-(t-butoxycarbonyl)aniline | 10.35 mmol, 2.0 g | C(C)(C)(C)OC(=O)NC1=CC=CC=C1 | C11H15NO2
reactant | t-BuLi | 25.88 mmol, 2.7M, 26 mL | [Li]C(C)(C)C
reactant | n-Bu3SnCl | 15.52 mmol, 4.2 mL | [Sn](CCCC)(CCCC)(CCCC)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-tributylstannylphenylcarbamic acid t-butyl ester | 2.42 g, 54% | C(C)(C)(C)OC(NC1=C(C=CC=C1)[Sn](CCCC)(CCCC)CCCC)=O | InChI=1S/C11H14NO2.3C4H9.Sn/c1-11(2,3)14-10(13)12-9-7-5-4-6-8-9;3*1-3-4-2;/h4-7H,1-3H3,(H,12,13);3*1,3-4H2,2H3;
